US05622953
a) 2-(3-Methyl-isoxazol-5-yl)-1-(2-tert.butyldimethylsiloxy-phenyl)-ethanone
52 ml of 1N solution of n-butyllithium in hexane were added to a solution of 6 g of 3,5-dimethylisoxazol in 200 ml of tetrahydrofuran at -78° C. After stirring for 1 h 15 g of methyl 2-tert.butyldimethylsiloxybenzoate in 50 ml of tetrahydrofuran were added at the same temperature. The reaction mixture was slowly warmed up to -20° C. A saturated aqueous solution of ammonium chloride was added, the mixture was extracted several times with ethylacetate. The organic phase was separated, washed with water and dried over magnesium sulfate. Chromatography on silica gel with heptane/ethylacetate gave 9.4 g of the product.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,5-dimethylisoxazol | 6 g | CC1=NOC(=C1)C | C5H7NO
reactant | methyl 2-tert.butyldimethylsiloxybenzoate | 15 g | C(C)(C)(C)C1=C(C(=O)OC)C=CC=C1O[SiH](C)C | C14H22O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-Methyl-isoxazol-5-yl)-1-(2-tert.butyldimethylsiloxy-phenyl)-ethanone | 9.4 g | CC1=NOC(=C1)CC(=O)C1=C(C(=CC=C1)O[SiH](C)C)C(C)(C)C | C18H25NO3Si
